US05863946
Preparation of 5-formyltetrazole-O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethyl] oxime
The title compound is prepared by the reaction of O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethyl]hydroxylamine, prepared as in Example 1, steps 1-3, with 5-formyltetrazole.

reactant | O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethyl]hydroxylamine | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)CON | C14H14Cl2N2O
reactant | 5-formyltetrazole | C(=O)C1=NN=NN1 | C2H2N4O
product | 5-formyltetrazole-O-[2-[(2,6-dichloro-3-methylphenyl)amino]phenylmethyl] oxime | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)CON=CC1=NN=NN1 | C16H14Cl2N6O
